US04296114
3-Amino-1-(4-chlorophenyl)-1,2-dihydroquinoxalin-2-one
To a melt of ammonium acetate (62 g) at 160° C. was added 1-(4-chlorophenyl)-1,2-dihydro-3-ethoxyquinoxalin-2-one (8.8 g) and the temperature was then raised during 5 minutes to 200° C. and maintained at this level for 15 minutes. The melt was cooled, water was added, and the product was filtered off. Crystallisation from ethanol gave the title compound (5.6 g) mp 254°-255° C.

reactant | ammonium acetate | 62 g | C(C)(=O)[O-].[NH4+]
reactant | 1-(4-chlorophenyl)-1,2-dihydro-3-ethoxyquinoxalin-2-one | 8.8 g | ClC1=CC=C(C=C1)N1C(C(=NC2=CC=CC=C12)OCC)=O | C16H13ClN2O2
solvent | water | O | H2O
product | 3-Amino-1-(4-chlorophenyl)-1,2-dihydroquinoxalin-2-one | 5.6 g | NC=1C(N(C2=CC=CC=C2N1)C1=CC=C(C=C1)Cl)=O | C14H10ClN3O
